US07612114B2
Pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
Synthesized from pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester and 4-acetoxybenzoic acid according to an analogous synthetic method to Preparation Example 154, pivalic acid (R)-6-{2-[(4-acetoxybenzoyl)ethylamino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (471 mg) was used according to an analogous synthetic method to Preparation Example 155 to provide the title compound (311 mg).

reactant | pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | C(C)NC1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 4-acetoxybenzoic acid | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | pivalic acid (R)-6-{2-[(4-acetoxybenzoyl)ethylamino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 471 mg | C(C)(=O)OC1=CC=C(C(=O)CCNC2=C(C=C(C(=C2)OC)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C34H39NO7
product | Pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 311 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C32H37NO6
